US06333324B1
Palladium hydroxide on carbon (700 mg) was added to a solution of (2R,5R)-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-(4-methoxybenzenesulfonyl)-5-(2-methylpropyl)piperazine (6.4 g) in MeOH (60 ml), and the mixture was hydrogenated in hydrogen at 3.5 atm for 4 hours at ambient temperature. The catalyst was removed by filtration through a celite pad and the filtrate was washed with MeOH. The filtrate and combined washings were concentrated in vacuo to give 5.3 g of (2R,5R)-4-(tert-butoxycarbonyl)-2-hydroxymethyl-1-(4-methoxybenzenesulfonyl)-5-(2-methylpropyl)piperazine as white crystals.

reactant | (2R,5R)-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-(4-methoxybenzenesulfonyl)-5-(2-methylpropyl)piperazine | 6.4 g | C(C1=CC=CC=C1)OC[C@@H]1N(C[C@H](N(C1)C(=O)OC(C)(C)C)CC(C)C)S(=O)(=O)C1=CC=C(C=C1)OC | C28H40N2O6S
solvent | MeOH | 60 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide on carbon | 700 mg | [OH-].[OH-].[Pd+2]
product | (2R,5R)-4-(tert-butoxycarbonyl)-2-hydroxymethyl-1-(4-methoxybenzenesulfonyl)-5-(2-methylpropyl)piperazine | 5.3 g | C(C)(C)(C)OC(=O)N1C[C@@H](N(C[C@H]1CC(C)C)S(=O)(=O)C1=CC=C(C=C1)OC)CO | C21H34N2O6S
